US03955028
A solution of bis(tribromoneopentyl) phosphorochloridate in benzene was stirred with water. Crystalline solids slowly came out, and were removed by filtration. The product was a colorless crystalline solid, m.p. 130°C. Titration with standard 0.1-N NaOH in aqueous acetone medium or KOH in methanol showed it to have an equivalent weight of 710 corresponding to [(CHBr)3CCH2O]2P(O)(OH), bis(tribromoneopentyl) hydrogen phosphate. The aqueous acetone sodium salt solution or the alcoholic potassium salt solution was applied to cotton polyester fabric to obtain a dry add-on of 20% of the alkali metal salt of bis(tribromoneopentyl) acid phosphate. Fixation of the finish was achieved by applying a solution of magnesium chloride, which gives in situ formation of the water-insoluble magnesium salt of bis(tribromoneopentyl) hydrogen phosphate. The resultant finish imparts flame retardant properties and is wash-durable.

reactant | bis(tribromoneopentyl) phosphorochloridate | P(OC(C(CBr)(C)C)(Br)Br)(OC(C(CBr)(C)C)(Br)Br)(=O)Cl | C10H16Br6ClO3P
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | bis(tribromoneopentyl) hydrogen phosphate | P(=O)(OC(C(CBr)(C)C)(Br)Br)(OC(C(CBr)(C)C)(Br)Br)O | C10H17Br6O4P
